US04792563
Stage 2: 1-Fluoro-2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propane
A mixture of 2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propy-1-yl p-toluenesulphonate (2.5 g), potassium fluoride (0.8 g) and tetraethylene glycol (7 cm3) was heated at 160° C. (under a drying tube to exclude moisture) for 3 hours. The reaction mixture was allowed to cool and stood at the ambient temperature for 17 hours. The mixture was poured into water and the products extracted into diethyl ether (2×200 cm3). The combined organic extracts were washed with water and dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave an orange oil (1.5 g) which was passed through a short silica gel column using petroleum ether (boiling range 40°-60° C.) containing 10% by volume diethyl as eluent. Analysis of the resulting oil indicated 3 major components which were separated and isolated by high pressure liquid chromatography (eluting with hexane containing 1% by volume ethyl acetate). The first and third fractions were identified as 1-chloro-2,2-dimethyl-3-(4 -fluoro-3-phenoxybenzyloxy)propane (0.25 g--thought to have been formed owing to the presence of chloride ion contamination of the starting materials) and 2-(4-fluoro-3-phenoxybenzyloxy)-but-1-ene (an elimination by-product) respectively. The title compound (0.29 g) was obtained as the second eluted fraction; characterising data for this compound are given below:

reactant | 1-chloro-2,2-dimethyl-3-(4 -fluoro-3-phenoxybenzyloxy)propane | ClCC(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C | C18H20ClFO2
reactant | 2-(4-fluoro-3-phenoxybenzyloxy)-but-1-ene | FC1=C(C=C(COC(=C)CC)C=C1)OC1=CC=CC=C1 | C17H17FO2
product | 1-Fluoro-2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propane | 0.29 g | FCC(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C | C18H20F2O2
